US09315490B2
(1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)((R)-3-(hydroxymethyl)pyrrolidin-1-yl)methanone
Prepared from 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylic acid in two reaction steps comprising a TBTU mediated amide coupling with (R)-pyrrolidin-3-ylmethanol (see also procedure 244c) and an oxidation utilizing m-chloroperoxybenzoic acid as oxidizing agent. Yellow solid. Yield: 0.12 g

reactant | 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylic acid | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)SC | C20H14FN3O2S
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (R)-pyrrolidin-3-ylmethanol | N1C[C@@H](CC1)CO | C5H11NO
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
product | (1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)((R)-3-(hydroxymethyl)pyrrolidin-1-yl)methanone | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1C[C@@H](CC1)CO)S(=O)C | C25H23FN4O3S
